US05322847
1. 3-(5-fluorobenzothiazol-2-yl-trans-ethenyl)benzyl alcohol t-butyldimethylsilyl ether
To 100 ml of dimethylformamide containing 2.0 g of 3-(5-fluorobenzothiazol-2-yl-trans-ethenyl)benzyl alcohol and 1.19 g of imidazole was added 1.37 g of t-butyldimethylsilyl chloride and the reaction mixture stirred overnight under nitrogen at room temperature. After 48 hours of reaction time, the mixture was poured into 500 ml of ethyl acetate and washed with water (3×150 ml), a 1N hydrochloric acid solution (2×150 ml), water (1×200 ml) and a brine solution (1×200 ml) The organic layer was separated, dried over sodium sulfate and concentrated to a white solid. The residue was recrystallized from ethyl acetate--hexane, 1.57 g, m.p. 91°-93° C.

reactant | dimethylformamide | 100 ml, 2.0 g | CN(C=O)C | C3H7NO
reactant | 3-(5-fluorobenzothiazol-2-yl-trans-ethenyl)benzyl alcohol | FC=1C=CC2=C(N=C(S2)/C=C/C=2C=C(CO)C=CC2)C1 | C16H12FNOS
reactant | imidazole | 1.19 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 1.37 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 3-(5-fluorobenzothiazol-2-yl-trans-ethenyl)benzyl alcohol t-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CC=C1)\C=C\C=1SC2=C(N1)C=C(C=C2)F | C22H26FNOSSi
